US07790720B2
4-(3-chloropropoxy)-2-fluorobenzoic acid i78 (0.68 g, 2.92 mmol, 1 eq) is refluxed in thionyl chloride (4.27 ml, 57.46 mmol, 20 eq) for 3 hours. The mixture is then concentrated under reduced pressure to give 0.73 g of crude 4-(3-chloropropoxy)-2-fluorobenzoyl chloride i80, which is used in the next step without purification.

reactant | 4-(3-chloropropoxy)-2-fluorobenzoic acid | ClCCCOC1=CC(=C(C(=O)O)C=C1)F | C10H10ClFO3
reactant | thionyl chloride | 57.46 mmol, 4.27 ml, 20 eq | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-chloropropoxy)-2-fluorobenzoyl chloride | 0.73 g | ClCCCOC1=CC(=C(C(=O)Cl)C=C1)F | C10H9Cl2FO2
